US07851225B2
2-(bromomethyl)-6-methylphenylboronic acid (6)
2,6-dimethylphenylboronic acid (2.22 g, 14.8 mmol), NBS (1.31 g, 7.36 mmol, 0.5 eq) and AIBN (0.17 g, 1.0 mmol. 0.07 eq) were heated in refluxing CCl4 for 2 hours. The solution was allowed to cool then filtered. The solution was then washed with water (50 mL), dried over Na2SO4 and the solvent evaporated in vacuo. The resulting white powder (1.66 g) was ˜84% pure by HPLC and contained starting material and some di-brominated product. Column chromatography on silica gel 60 (elution conditions 0%-2% methanol in dichloromethane) failed to improve the purity and the crude material was used for the next step.

reactant | 2,6-dimethylphenylboronic acid | 14.8 mmol, 2.22 g | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | NBS | 7.36 mmol, 1.31 g, 0.5 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.0 mmol, 0.17 g, 0.07 eq | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-(bromomethyl)-6-methylphenylboronic acid | BrCC1=C(C(=CC=C1)C)B(O)O | C8H10BBrO2
